US03974223
A 500 ml reaction flask fitted with a mechanical stirrer, heating mantle, thermometer and water-cooled condenser was charged with 100 ml of glacial acetic acid and 17 ml of water. To the stirred solution there were added 30.8 g (0.4 mole) of ammonium acetate, 48.7 g of 37% formalin (0.60 mole formaldehyde) and 11.8 g (0.05 mole) of 3,5-ditert.butyl-4-hydroxybenzyl alcohol. The reaction flask was equipped with a take-off head to remove the methanol which is present in commercially available formalin. The mixture was refluxed (100°-2°) for 2 hours. The cooled mixture was poured on a vacuum filter and the product cake was washed with water. After drying, there was obtained 8.0 g of crystalline 3,5-ditert.butyl-4-hydroxybenzaldehyde, m.p. 191°-93° (68.4%).

reactant | ammonium acetate | 0.4 mole, 30.8 g | C(C)(=O)[O-].[NH4+]
reactant | formalin | 0.60 mole, 48.7 g | C=O | CH2O
reactant | 3,5-ditert.butyl-4-hydroxybenzyl alcohol | 0.05 mole, 11.8 g | C(C)(C)(C)C=1C=C(CO)C=C(C1O)C(C)(C)C | C15H24O2
solvent | water | 17 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3,5-ditert.butyl-4-hydroxybenzaldehyde | 8.0 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
